US07569589B2
(±)-2-(4-fluorophenyl)-2-(2-methyl-2H-tetrazol-5-yl)-1,1-dipyridin-3-ylethanol
To a 1:1 mixture of 5-(4-fluorobenzyl)-2-methyl-2H-tetrazole and 5-(4-fluorobenzyl)-1-methyl-1H-tetrazole, (0.209 g, 1.09 mmol) in 10 mL of 1:1 ether:tetrahydrofuran at −78° C. was added dropwise n-BuLi (0.434 mL of 2.5 M in hexane, 1.09 mmol). After stirring for one hour, a solution of dipyridin-3-ylmethanone (200 mg, 1.09 mmol) in 3 mL of tetrahydrofuran was added dropwise. Afterh 30 minutes, the reaction was quenched by transferring it via cannula to a −78° C. solution of 100 mL of ether containing 1 mL of concentrated aqueous HCl solution. After concentrating the mixture in vacuo, the resulting residue was taken up in EtOAc and extracted with 10% aqueous Na2CO3 solution and brine, dried (Na2SO4), filtered and concentrated in vacuo. The residue was purified by preparative reverse-phase HPLC to provide the titled compound, along with a regioisomer (Example VII-4). 1H NMR (500 MHz, d6-DMSO): δ 8.91 (br s, 1H), 8.66 (br s, 1H), 8.36 (d, J=4.4 Hz, 1H), 8.24 (d, J=4.4 Hz, 1H), 8.07 (br d, J=8.3 Hz, 1H), 7.82 (br d, J=8.0 Hz, 1H), 7.51 (dd, J =8.7 and 5.6 Hz, 2H), 7.29 (dd, J=8.3 and 4.9 Hz, 1H), 7.16 (dd, J=8.0 and 4.6 Hz, 1H), 6.95 (t, J=9.0 Hz, 2H), 6.16 (s, 1H), 6.05 (s, 1H), 4.23 (s, 3H). HRMS [M+H] C20H18FN6O calcd 377.1521 , found 377.1527.

reactant | 5-(4-fluorobenzyl)-2-methyl-2H-tetrazole | FC1=CC=C(CC=2N=NN(N2)C)C=C1 | C9H9FN4
reactant | 5-(4-fluorobenzyl)-1-methyl-1H-tetrazole | 1.09 mmol, 0.209 g | FC1=CC=C(CC2=NN=NN2C)C=C1 | C9H9FN4
reactant | n-BuLi | 1.09 mmol, 2.5 M, 0.434 mL | [Li]CCCC
reactant | dipyridin-3-ylmethanone | 1.09 mmol, 200 mg | N1=CC(=CC=C1)C(=O)C=1C=NC=CC1 | C11H8N2O
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | (±)-2-(4-fluorophenyl)-2-(2-methyl-2H-tetrazol-5-yl)-1,1-dipyridin-3-ylethanol | FC1=CC=C(C=C1)C(C(O)(C=1C=NC=CC1)C=1C=NC=CC1)C=1N=NN(N1)C | C20H17FN6O
